US04218472
2-Methylamino-1-[spiro(cyclopentane-1,1'-indene)-3'-yl]ethanol
Phosgene (1 g) is added to dimethylamino-1-[spiro(cyclopentane-1,1'-indene)-3'-yl]ethanol (2.9 g) in benzene (25 ml). The mixture is stirred at room temperature for 30 minutes and then under reflux for 2 hours. Evaporation of the solvent under reduced pressure gives an oil which crystallizes. Recrystallization from diisopropyl ether gives a pure product, m.p. 75°-77° C. This compound, 5-[spiro(cyclopentane-1,1'-indene)-3'-yl]ethanol (2 g), is refluxed for 2 hours with a solution of potassium hydroxide (5 g) in ethanol (50 ml) and water (10 ml). Most of the solvent is evaporated under reduced pressure, water (25 ml) is added and the amine is extracted into chloroform. Drying and evaporation of the solvent gives the crystalline title compound, which after recrystallization from diisopropyl ether melts at 133°-134° C.

reactant | Phosgene | 1 g | C(=O)(Cl)Cl | CCl2O
reactant | dimethylamino-1-[spiro(cyclopentane-1,1'-indene)-3'-yl]ethanol | 2.9 g | CN(C)C(C)(O)C1=CC2(C3=CC=CC=C13)CCCC2 | C17H23NO
reactant | potassium hydroxide | 5 g | [OH-].[K+]
reactant | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 2-Methylamino-1-[spiro(cyclopentane-1,1'-indene)-3'-yl]ethanol | CNCC(O)C1=CC2(C3=CC=CC=C13)CCCC2 | C16H21NO
